*
.subckt awb494_sac 5 2 13 10
+ params:
+ SWITCHTIME=0.5e-6
+ DEAD_TIME=1e-6
+ PERIOD=25e-6
+ VC_MAX_DTY=0.7
+ VC_MIN_DTY=3.5
+ INDUCTANCE=100E-6
xinst494_sac 5 2 13 10 model591_494_sac
+ params:
+ SWITCHTIME={SWITCHTIME}
+ DEAD_TIME={DEAD_TIME}
+ PERIOD={PERIOD}
+ VC_MAX_DTY={VC_MAX_DTY}
+ VC_MIN_DTY={VC_MIN_DTY}
+ INDUCTANCE={INDUCTANCE}
.ends awb494_sac

*b Device model created by analog_uprev for 1524_sac on Wed Aug  1 19:41:55 IST 2007
.subckt awb1524_sac   2 6 5 69
+ params:
+ AVMAX=80
+ DEAD_TIME=1E-6
+ GBW=3E+6
+ GM=2E-3
+ MAX_V=3.5
+ MIN_V=1
+ PERIOD=20E-6
+ SWITCHTIME=.5E-6
xinst1524_sac   2 6 5 69 model591_1524_sac    params:  avmax={AVMAX}
+  dead_time={DEAD_TIME}
+  gbw={GBW}
+  gm={GM}
+  max_v={MAX_V}
+  min_v={MIN_V}
+  period={PERIOD}
+  switchtime={SWITCHTIME}
+ 
.ends  awb1524_sac

*b Device model created by analog_uprev for 1524a_sac on Wed Aug  1 19:41:55 IST 2007
.subckt awb1524a_sac   17 13 7 2 4 6 25 26
+ params:
+ AVMAX=80
+ DEAD_TIME=1E-6
+ GBW=3E+6
+ GM=2.3E-3
+ MAX_V=3.5
+ MIN_V=0.8
+ PERIOD=20E-6
+ SWITCHTIME=0.1E-6
+ UVLO_ON_OFF=0
xinst1524a_sac   17 13 7 2 4 6 25 26 model591_1524a_sac    params:  avmax={AVMAX}
+  dead_time={DEAD_TIME}
+  gbw={GBW}
+  gm={GM}
+  max_v={MAX_V}
+  min_v={MIN_V}
+  period={PERIOD}
+  switchtime={SWITCHTIME}
+  uvlo_on_off={UVLO_ON_OFF}
.ends  awb1524a_sac

*b Device model created by analog_uprev for 1525a_sac on Wed Aug  1 19:41:55 IST 2007
.subckt awb1525a_sac   10 1 2 6
+ params:
+ DEAD_TIME=1E-6
+ MAX_V=3.3
+ MIN_V=0.9
+ PERIOD=50E-6
+ SWITCHTIME=0.5E-6
xinst1525a_sac   10 1 2 6 model591_1525a_sac    params:  dead_time={DEAD_TIME}
+  max_v={MAX_V}
+  min_v={MIN_V}
+  period={PERIOD}
+  switchtime={SWITCHTIME}
.ends  awb1525a_sac

*b Device model created by analog_uprev for 1526_sac on Wed Aug  1 19:41:55 IST 2007
.subckt awb1526_sac   7 3 5 9
+ params:
+ DEAD_TIME=5E-6
+ MAX_V=3
+ MIN_V=1
+ PERIOD=50E-6
+ SWITCHTIME=0.5E-6
xinst1526_sac   7 3 5 9 model591_1526_sac    params:  dead_time={DEAD_TIME}
+  max_v={MAX_V}
+  min_v={MIN_V}
+  period={PERIOD}
+  switchtime={SWITCHTIME}
.ends  awb1526_sac

*b Device model created by analog_uprev for 1527a_sac on Wed Aug  1 19:41:55 IST 2007
.subckt awb1527a_sac   6 2 1 10
+ params:
+ DEAD_TIME=1E-6
+ MAX_V=3.3
+ MIN_V=0.9
+ PERIOD=50E-6
+ SWITCHTIME=0.5E-6
xinst1527a_sac   6 2 1 10 model591_1527a_sac    params:  dead_time={DEAD_TIME}
+  max_v={MAX_V}
+  min_v={MIN_V}
+  period={PERIOD}
+  switchtime={SWITCHTIME}
.ends  awb1527a_sac

*
.subckt awb1577_sac 39 37 47 50 6 11 7 23 3 55 2	 params:
+ STRG_TIME=.1e-6
+ INDUCTANCE=100e-6
+ DEAD_TIME=1e-9
+ IND_LEAK=1e-6
+ TRNS_RATIO=1
+ T_METER=0
+ T_RJA=55
+ T_AMBNT=26
+ T_S_UF=1
+ T_FBK_BST=1

xinst1577_sac 39 37 47 50 6 11 7 23 3 55 2 model591_1577_sac
+ params:
+ STRG_TIME={STRG_TIME}
+ INDUCTANCE={INDUCTANCE}
+ DEAD_TIME={DEAD_TIME}
+ IND_LEAK={IND_LEAK}
+ TRNS_RATIO={TRNS_RATIO}
+ T_METER={T_METER}
+ T_RJA={T_RJA}
+ T_AMBNT={T_AMBNT}
+ T_S_UF={T_S_UF}
+ T_FBK_BST={T_FBK_BST}

.ends awb1577_sac



*b Device model created by analog_uprev for 1825_sac on Thu Aug  2 09:49:19 IST 2007
.subckt awb1825_sac   42 4 3 63 29 28 18 19 10 12 17 24 30 31 60
+ params:
+ COMP_SLOPE=0
+ DEAD_TIME=1E-6
+ ILIM_GAIN=0
+ INDUCTANCE=100E-6
+ ISENS_GAIN=1
+ N_FWD_MODE=1
+ PERIOD=1E-5
+ T_STORAGE=0
+ VF_DIODE=0
xinst1825_sac   42 4 3 63 29 28 18 19 10 12 17 24 30 31 60 model591_1825_sac    params:  comp_slope={COMP_SLOPE}
+  dead_time={DEAD_TIME}
+  ilim_gain={ILIM_GAIN}
+  inductance={INDUCTANCE}
+  isens_gain={ISENS_GAIN}
+  n_fwd_mode={N_FWD_MODE}
+  period={PERIOD}
+  t_storage={T_STORAGE}
+  vf_diode={VF_DIODE}
.ends  awb1825_sac

*
.subckt awb1842_sac 6 32 8 17 25 9 30 34 2 5 1
+ params: 
+  VF_DIODE=0
+  T_STORAGE=0
+  PERIOD=10e-6
+  N_FWD_MODE=1
+  COMP_SLOPE=0
+  INDUCTANCE=100e-6
+  ISENS_GAIN=1
+  DEAD_TIME=1e-6
xinst1842_sac 6 32 8 17 25 9 30 34 2 5 1 model591_1842_sac
+ params:
+  VF_DIODE={VF_DIODE}
+  T_STORAGE={T_STORAGE}
+  PERIOD={PERIOD}
+  N_FWD_MODE={N_FWD_MODE}
+  COMP_SLOPE={COMP_SLOPE}
+  INDUCTANCE={INDUCTANCE}
+  ISENS_GAIN={ISENS_GAIN}
+  DEAD_TIME={DEAD_TIME}
.ends awb1842_sac

*b Device model created by analog_uprev for 1843_sac on Mon Jul 30 15:27:52 IST 2007
.subckt awb1843_sac   6 32 8 17 25 9 30 34 2 5 1
+ params:
+ COMP_SLOPE=0
+ DEAD_TIME=1E-6
+ INDUCTANCE=100E-6
+ ISENS_GAIN=1
+ N_FWD_MODE=1
+ PERIOD=10E-6
+ T_STORAGE=0
+ VF_DIODE=0
xinst1843_sac   6 32 8 17 25 9 30 34 2 5 1 model591_1843_sac    params:  comp_slope={COMP_SLOPE}
+  dead_time={DEAD_TIME}
+  inductance={INDUCTANCE}
+  isens_gain={ISENS_GAIN}
+  n_fwd_mode={N_FWD_MODE}
+  period={PERIOD}
+  t_storage={T_STORAGE}
+  vf_diode={VF_DIODE}
.ends  awb1843_sac


*b Device model created by analog_uprev for 1844_sac on Wed Aug  1 18:56:38 IST 2007
.subckt awb1844_sac   6 32 8 17 25 9 30 34 2 5 1
+ params:
+ COMP_SLOPE=0
+ DEAD_TIME=1E-6
+ INDUCTANCE=100E-6
+ ISENS_GAIN=1
+ N_FWD_MODE=1
+ PERIOD=10E-6
+ T_STORAGE=0
+ VF_DIODE=0
xinst1844_sac   6 32 8 17 25 9 30 34 2 5 1 model591_1844_sac    params:  comp_slope={COMP_SLOPE}
+  dead_time={DEAD_TIME}
+  inductance={INDUCTANCE}
+  isens_gain={ISENS_GAIN}
+  n_fwd_mode={N_FWD_MODE}
+  period={PERIOD}
+  t_storage={T_STORAGE}
+  vf_diode={VF_DIODE}
.ends  awb1844_sac

*
.subckt awb1845_sac 6 32 8 17 25 9 30 34 2 5 1
+  params: 
+  VF_DIODE=0
+  T_STORAGE=0
+  PERIOD=10e-6
+  N_FWD_MODE=1
+  COMP_SLOPE=0
+  INDUCTANCE=100e-6
+  ISENS_GAIN=1
+  DEAD_TIME=1e-6
xinst1845_sac 6 32 8 17 25 9 30 34 2 5 1 model591_1845_sac
+ params:
+  VF_DIODE={VF_DIODE}
+  T_STORAGE={T_STORAGE}
+  PERIOD={PERIOD}
+  N_FWD_MODE={N_FWD_MODE}
+  COMP_SLOPE={COMP_SLOPE}
+  INDUCTANCE={INDUCTANCE}
+  ISENS_GAIN={ISENS_GAIN}
+  DEAD_TIME={DEAD_TIME}
.ends awb1845_sac

*b Device model created by analog_uprev for 1846_sac on Mon Jul 30 15:16:23 IST 2007
.subckt awb1846_sac   28 39 1 5 21 33 35 40 23 24 17 8 36 30
+ params:
+ COMP_SLOPE=0
+ DEAD_TIME=1E-6
+ INDUCTANCE=100E-6
+ ISENS_GAIN=1
+ N_FWD_MODE=1
+ PERIOD=1E-5
+ T_STORAGE=0
+ VF_DIODE=0
xinst1846_sac   28 39 1 5 21 33 35 40 23 24 17 8 36 30 model591_1846_sac    params:  comp_slope={COMP_SLOPE}
+  dead_time={DEAD_TIME}
+  inductance={INDUCTANCE}
+  isens_gain={ISENS_GAIN}
+  n_fwd_mode={N_FWD_MODE}
+  period={PERIOD}
+  t_storage={T_STORAGE}
+  vf_diode={VF_DIODE}
.ends  awb1846_sac

*b Device model created by analog_uprev for 1847_sac on Thu Aug  2 09:49:19 IST 2007
.subckt awb1847_sac   30 36 8 17 24 23 40 35 33 21 5 1 39 28
+ params:
+ COMP_SLOPE=0
+ DEAD_TIME=1E-6
+ INDUCTANCE=100E-6
+ ISENS_GAIN=1
+ N_FWD_MODE=1
+ PERIOD=10E-6
+ T_STORAGE=0
+ VF_DIODE=0
xinst1847_sac   30 36 8 17 24 23 40 35 33 21 5 1 39 28 model591_1847_sac    params:  comp_slope={COMP_SLOPE}
+  dead_time={DEAD_TIME}
+  inductance={INDUCTANCE}
+  isens_gain={ISENS_GAIN}
+  n_fwd_mode={N_FWD_MODE}
+  period={PERIOD}
+  t_storage={T_STORAGE}
+  vf_diode={VF_DIODE}
.ends  awb1847_sac

*b Device model created by analog_uprev for pwmbck on Thu Aug  2 10:02:24 IST 2007
.subckt awbpwmbck   1 2 3 4 5
+ params:
+ R_OUT=0.01
+ TRNS_RATIO=1
xinstpwmbck   1 2 3 4 5 model591_pwmbck    params:  r_out={R_OUT}
+  trns_ratio={TRNS_RATIO}
.ends  awbpwmbck

*b Device model created by analog_uprev for pwmbckd on Thu Aug  2 10:02:24 IST 2007
.subckt awbpwmbckd   19 17 8 15 3 18 13
+ params:
+ INDUCTANCE=1E-3
+ PERIOD=1E-5
+ R_INPUT=1E-4
+ R_SENSE=1E-4
+ TRNS_RATIO=1
xinstpwmbckd   19 17 8 15 3 18 13 model591_pwmbckd    params:  inductance={INDUCTANCE}
+  period={PERIOD}
+  r_input={R_INPUT}
+  r_sense={R_SENSE}
+  trns_ratio={TRNS_RATIO}
.ends  awbpwmbckd

*b Device model created by analog_uprev for pwmbst on Thu Aug  2 10:02:24 IST 2007
.subckt awbpwmbst   1 2 3 4 5
+ params:
+ R_IN=0.01
+ TRNS_RATIO=1
xinstpwmbst   1 2 3 4 5 model591_pwmbst    params:  r_in={R_IN}
+  trns_ratio={TRNS_RATIO}
.ends  awbpwmbst

*b Device model created by analog_uprev for pwmbstd on Thu Aug  2 10:02:24 IST 2007
.subckt awbpwmbstd   16 15 12 10 11 3 8
+ params:
+ INDUCTANCE=100E-6
+ PERIOD=10E-6
+ TRNS_RATIO=1
xinstpwmbstd   16 15 12 10 11 3 8 model591_pwmbstd    params:  inductance={INDUCTANCE}
+  period={PERIOD}
+  trns_ratio={TRNS_RATIO}
.ends  awbpwmbstd

*b Device model created by analog_uprev for pwmflyd on Thu Aug  2 10:02:24 IST 2007
.subckt awbpwmflyd   17 16 8 6 14 3 19
+ params:
+ INDUCTANCE=1E-3
+ PERIOD=1E-5
+ R_INPUT=1E-4
+ R_SENSE=1E-4
+ TRNS_RATIO=1
xinstpwmflyd   17 16 8 6 14 3 19 model591_pwmflyd    params:  inductance={INDUCTANCE}
+  period={PERIOD}
+  r_input={R_INPUT}
+  r_sense={R_SENSE}
+  trns_ratio={TRNS_RATIO}
.ends  awbpwmflyd

*b Device model created by analog_uprev for pwmxfm on Thu Aug  2 10:02:24 IST 2007
.subckt awbpwmxfm   1 2 3 4 5
+ params:
+ R_OUT=0.01
+ TRNS_RATIO=1
xinstpwmxfm   1 2 3 4 5 model591_pwmxfm    params:  r_out={R_OUT}
+  trns_ratio={TRNS_RATIO}
.ends  awbpwmxfm

*b Device model created by analog_uprev for uc1854_sac on Thu Aug  2 14:19:58 IST 2007
.subckt awbuc1854_sac   43 33 59 27 5 4 7 67 1 72 44 55 9 56 53 57
+ params:
+ AVCA=110
+ AVVA=100
+ DEAD_TIME=100N
+ GBWCA=900K
+ GBWVA=500K
+ ICCOFF=1.5M
+ ICCON=10M
+ PERIOD=10U
+ SRCA=2MEG
+ SRVA=2MEG
+ SS_ON_OFF=1
+ UVLO_ON_OFF=0
+ VMAXVA=5.75
+ VOSCA=2M
+ VOSVA=4M
+ VREF=7.5
+ VSAWMAX=6.3
+ VSAWMIN=1.1
+ VTPKLMT=0
xinstuc1854_sac   43 33 59 27 5 4 7 67 1 72 44 55 9 56 53 57 model591_uc1854_sac    params:  avca={AVCA}
+  avva={AVVA}
+  dead_time={DEAD_TIME}
+  gbwca={GBWCA}
+  gbwva={GBWVA}
+  iccoff={ICCOFF}
+  iccon={ICCON}
+  period={PERIOD}
+  srca={SRCA}
+  srva={SRVA}
+  ss_on_off={SS_ON_OFF}
+  uvlo_on_off={UVLO_ON_OFF}
+  vmaxva={VMAXVA}
+  vosca={VOSCA}
+  vosva={VOSVA}
+  vref={VREF}
+  vsawmax={VSAWMAX}
+  vsawmin={VSAWMIN}
+  vtpklmt={VTPKLMT}
.ends  awbuc1854_sac

*b Device model created by analog_uprev for uc2854_sac on Thu Aug  2 14:19:58 IST 2007
.subckt awbuc2854_sac   43 33 59 27 5 4 7 67 1 72 44 55 9 56 53 57
+ params:
+ AVCA=110
+ AVVA=100
+ DEAD_TIME=100N
+ GBWCA=900K
+ GBWVA=500K
+ ICCOFF=1.5M
+ ICCON=10M
+ PERIOD=10U
+ SRCA=2MEG
+ SRVA=2MEG
+ SS_ON_OFF=1
+ UVLO_ON_OFF=0
+ VMAXVA=5.75
+ VOSCA=2M
+ VOSVA=4M
+ VREF=7.5
+ VSAWMAX=6.3
+ VSAWMIN=1.1
+ VTPKLMT=0
xinstuc2854_sac   43 33 59 27 5 4 7 67 1 72 44 55 9 56 53 57 model591_uc2854_sac    params:  avca={AVCA}
+  avva={AVVA}
+  dead_time={DEAD_TIME}
+  gbwca={GBWCA}
+  gbwva={GBWVA}
+  iccoff={ICCOFF}
+  iccon={ICCON}
+  period={PERIOD}
+  srca={SRCA}
+  srva={SRVA}
+  ss_on_off={SS_ON_OFF}
+  uvlo_on_off={UVLO_ON_OFF}
+  vmaxva={VMAXVA}
+  vosca={VOSCA}
+  vosva={VOSVA}
+  vref={VREF}
+  vsawmax={VSAWMAX}
+  vsawmin={VSAWMIN}
+  vtpklmt={VTPKLMT}
.ends  awbuc2854_sac

*b Device model created by analog_uprev for uc3854_sac on Thu Aug  2 14:19:58 IST 2007
.subckt awbuc3854_sac   43 33 59 27 5 4 7 67 1 72 44 55 9 56 53 57
+ params:
+ AVCA=110
+ AVVA=100
+ DEAD_TIME=100N
+ GBWCA=900K
+ GBWVA=500K
+ ICCOFF=1.5M
+ ICCON=10M
+ PERIOD=10U
+ SRCA=2MEG
+ SRVA=2MEG
+ SS_ON_OFF=1
+ UVLO_ON_OFF=0
+ VMAXVA=5.75
+ VOSCA=2M
+ VOSVA=4M
+ VREF=7.5
+ VSAWMAX=6.3
+ VSAWMIN=1.1
+ VTPKLMT=0
xinstuc3854_sac   43 33 59 27 5 4 7 67 1 72 44 55 9 56 53 57 model591_uc3854_sac    params:  avca={AVCA}
+  avva={AVVA}
+  dead_time={DEAD_TIME}
+  gbwca={GBWCA}
+  gbwva={GBWVA}
+  iccoff={ICCOFF}
+  iccon={ICCON}
+  period={PERIOD}
+  srca={SRCA}
+  srva={SRVA}
+  ss_on_off={SS_ON_OFF}
+  uvlo_on_off={UVLO_ON_OFF}
+  vmaxva={VMAXVA}
+  vosca={VOSCA}
+  vosva={VOSVA}
+  vref={VREF}
+  vsawmax={VSAWMAX}
+  vsawmin={VSAWMIN}
+  vtpklmt={VTPKLMT}
.ends  awbuc3854_sac

